data/oMe_Silver.jsonl
{"reaction_id": "NR-211_1-C=CC_2-C(C)(C)C_3-c1c(C)c(C)ccc1C_4-C(F)(F)F","level": "hard","name": "Passerini Reaction","reactants_smiles": ["C(=O)(C=CC)C(C)(C)C","[C-]#[N+]c1c(C)c(C)ccc1C","O=C(O)C(F)(F)F"],"products_smiles": ["O=C(C(F)(F)F)OC(C(=O)Nc1c(C)c(C)ccc1C)(C=CC)C(C)(C)C"],"conditions": "acid","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=[OH+])(C=CC)C(C)(C)C","step_weight": 0,"rationale": "Acid protonates the carbonyl oxygen, increasing electrophilicity of the carbon and making it more susceptible to nucleophilic attack."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "OC(C=CC)(C(C)(C)C)C(#[N+]c1c(C)c(C)ccc1C)","step_weight": 0,"rationale": "The isocyanide carbon, being nucleophilic due to its adjacent positive nitrogen, attacks the activated carbonyl carbon, forming a nitrilium intermediate."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[OH+]=C(C(F)(F)F)OC(=[N]c1c(C)c(C)ccc1C)C(C=CC)(C(C)(C)C)O","step_weight": 0,"rationale": "The carboxylic acid oxygen attacks the electrophilic nitrilium carbon, favored by resonance stabilization of the resulting intermediate."},{"step": 4,"type": "proton_transfer","subtype": "intramolecular_proton_transfer","intermediate_smiles": "[OH]C2(C(F)(F)F)OC(=[N]c1c(C)c(C)ccc1C)C(C=CC)(C(C)(C)C)O2","step_weight": 0,"rationale": "Intramolecular proton transfer stabilizes charges and positions the leaving group for the next elimination step."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "O=C(C(F)(F)F)OC(C(=O)Nc1c(C)c(C)ccc1C)(C=CC)C(C)(C)C","step_weight": 0,"rationale": "Elimination of water occurs as the leaving group is stabilized by adjacent carbonyl, yielding the thermodynamically stable α-acyloxy amide."}],"description": "Under acidic conditions, the Passerini reaction proceeds via activation of the carbonyl, nucleophilic attack by isocyanide, and subsequent trapping by a carboxylic acid. Proton transfers and elimination steps drive the formation of the α-acyloxy amide product through stabilized intermediates."}
{"reaction_id": "NR-138_1-C_2-c1ccc(OC)cc1_3-C(=O)C_4-c1ccc(N(C)C)cc1_5-C(Br)(Br)Br_6-C1CCCCC1","name": "Mannich Reaction","level": "medium","reactants_smiles": ["C(C(=O)C)(c1ccc(OC)cc1)(C(=O)C)","C(=O)(c1ccc(N(C)C)cc1)(C(Br)(Br)Br)","NC1CCCCC1"],"products_smiles": ["C(C(=O)C)(c1ccc(OC)cc1)(C(=O)C)C(c1ccc(N(C)C)cc1)(C(Br)(Br)Br)NC1CCCCC1"],"conditions": "Acid","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(=[OH+])C)(c1ccc(OC)cc1)","rationale": "Acid protonates the carbonyl oxygen, increasing electrophilicity of the carbonyl carbon via inductive and resonance effects, facilitating subsequent enolization."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(=O)C)(c1ccc(OC)cc1)=C(O)C","rationale": "Proton transfer to the α-carbon promotes enol formation, stabilized by resonance between the α-carbon and the protonated carbonyl."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C(=[OH+])C)(c1ccc(OC)cc1)(C(=O)C)C(c1ccc(N(C)C)cc1)(C(Br)(Br)Br)NC1CCCCC1","rationale": "The nucleophilic enol attacks the electrophilic iminium carbon, favored by conjugation and the strong electron-withdrawing effect of the protonated nitrogen."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(=O)C)(c1ccc(OC)cc1)(C(=O)C)C(c1ccc(N(C)C)cc1)(C(Br)(Br)Br)NC1CCCCC1","rationale": "Deprotonation restores neutrality, yielding the stable β-amino carbonyl product under thermodynamically favorable conditions."}],"description": "Under acidic conditions, the carbonyl group is activated toward nucleophilic attack via protonation, enabling enolization of the ketone. The enol then attacks the iminium ion formed from the aldehyde and amine, yielding the β-amino carbonyl product after deprotonation."}
